US08669266B2
(iv) 4-[(S)-2-Amino-3-(1H-[1,2,3]triazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate
To a solution of 739 mg 4-[(S)-2-tert-Butoxycarbonylamino-3-(1H-[1,2,3]triazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester in 8 ml dichloromethane were added 1.3 ml TFA. After 12 h stirring at RT the solvents were removed and the residue was codistilled twice with toluene. Yield: 1.32 g.

reactant | 4-[(S)-2-tert-Butoxycarbonylamino-3-(1H-[1,2,3]triazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester | 739 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1N=NNC1)NC(=O)OC(C)(C)C)=O | C19H32N6O5
reactant | TFA | 1.3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | 4-[(S)-2-Amino-3-(1H-[1,2,3]triazol-4-yl)-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CC=1N=NNC1)N)=O | C14H24N6O3
